US05476860
2-Acetoxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzyl alcohol acetate
1.2 g (3.23 mmol) of 2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2naphthyl)ethoxy]benzyl alcohol and 30 ml of pyridine are introduced into a flask and 345 ml (4.84 mmol) of acetyl chloride are added. The reaction mixture is stirred at 0° C. for 4 hours. It is poured into water, acidified with hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, and the organic phase is separated, dried over sodium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column, eluted with a mixture of hexane and ethyl acetate (70:30). After evaporation of the solvents, 140 mg (10.4%) of the expected product are collected in the form of a pale yellow oil.

reactant | 2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2naphthyl)ethoxy]benzyl alcohol | 3.23 mmol, 1.2 g | OC1=C(CO)C=CC(=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C23H30O4
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.84 mmol, 345 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | 2-Acetoxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzyl alcohol acetate | C(C)(=O)OCC1=C(C=C(C=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)OC(C)=O | C27H34O6
